US06951879B2
According to the method in example 6, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and Methyl-prop-2-ynyl-amine were converted to yield {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl-methyl-prop-2-ynyl-amine as light yellow oil, MS: 429(MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | Methyl-prop-2-ynyl-amine | CNCC#C | C4H7N
product | 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl-methyl-prop-2-ynyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CC#C)C | C21H21BrN2OS
